US07091215B2
tert-Butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate
After dissolving 7-bromo-2-methoxypyrazolo[1,5-a]pyridine-3-amine (810 mg) in dichloromethane (20 mL), triethylamine (0.7 mL) was added, di-tert-butyl dicarbonate (923 μL) was further added while cooling on ice, and the mixture was stirred overnight at room temperature. After adding water to the reaction mixture, extraction was performed with ethyl acetate and the organic layer was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (1.05 g) was obtained from the n-hexane:ethyl acetate (10:1) fraction as yellow crystals.

reactant | 7-bromo-2-methoxypyrazolo[1,5-a]pyridine-3-amine | 810 mg | BrC1=CC=CC=2N1N=C(C2N)OC | C8H8BrN3O
reactant | di-tert-butyl dicarbonate | 923 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate | 1.05 g | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)OC | C13H16BrN3O3
